US05364866
To the compound p-bromoacetophenone (36.85 g, 0.185 mol) in trichloromethane (300 ml) was added 1,3-propanedithiol (25 g, 0.23 mol) and boron trifluoride etherate (3 ml). The resulting mixture was stirred at room temperature for 48 hours. The mixture was diluted with dichloromethane (500 ml), washed twice with 10% sodium hydroxide (200 ml), water, and brine, and then dried (Na2SO4). The product was concentrated to an oil. A portion was stirred with ether (100 ml) and a crystalline product was formed. The crystalline product was recovered by filtration and purified by recrystallization to yield 4-bromo-1-(1,3-dithian-2-yl)ethylbenzene.

reactant | p-bromoacetophenone | 0.185 mol, 36.85 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | 1,3-propanedithiol | 0.23 mol, 25 g | C(CCS)S | C3H8S2
reactant | boron trifluoride etherate | 3 ml | B(F)(F)F.CCOCC
solvent | trichloromethane | 300 ml | ClC(Cl)Cl | CHCl3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4-bromo-1-(1,3-dithian-2-yl)ethylbenzene | BrC1=CC=C(C=C1)C(C)C1SCCCS1 | C12H15BrS2
